US08247436B2
Step 3: 3,3,3-Trifluoro-2-methoxy-2-methylpropan-1-amine
A mixture comprising 2-(3,3,3-trifluoro-2-methoxy-2-methylpropyl)isoindoline-1,3-dione (272 mg, 0.95 mmol) and hydrazine (0.033 ml, 1.045 mmol) was stirred at 75° C. for 4 hours. After cooling to RT, the mixture was filtered and the filtrate was concentrated in vacuo to afford the title product which was used without further purification (no characterisation data available).

reactant | 2-(3,3,3-trifluoro-2-methoxy-2-methylpropyl)isoindoline-1,3-dione | 0.95 mmol, 272 mg | FC(C(CN1C(C2=CC=CC=C2C1=O)=O)(C)OC)(F)F | C13H12F3NO3
reactant | hydrazine | 1.045 mmol, 0.033 ml | NN | H4N2
product | 3,3,3-Trifluoro-2-methoxy-2-methylpropan-1-amine | FC(C(CN)(C)OC)(F)F | C5H10F3NO
